** sch_path: /foss/designs/my_design/projects/pll/divider/xschem_ngspice/tb_TSPC_FF_ratioed.sch
**.subckt tb_TSPC_FF_ratioed
VDD VDD GND 1.8
V3 CK GND pulse(0 1.8 0ps 8.34ps 8.34ps 200.16ps 417ps)
x1 VDD A A CK GND TSPC_FF_ratioed
x2 VDD B B A GND TSPC_FF_ratioed
**** begin user architecture code



.include /foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

.option method=gear
.option wnflag=1
* .option savecurrents

.save
+@m.x1.xm1.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm2.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm3.msky130_fd_pr__pfet_01v8[gm]
+@m.x1.xm4.msky130_fd_pr__pfet_01v8[gm]
+@m.x1.xm5.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm6.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm7.msky130_fd_pr__nfet_01v8[gm]
+@m.x5.xm1.msky130_fd_pr__nfet_01v8[gm]
+@m.x5.xm2.msky130_fd_pr__nfet_01v8[gm]
+@m.x5.xm3.msky130_fd_pr__pfet_01v8[gm]
+@m.x5.xm4.msky130_fd_pr__pfet_01v8[gm]
+@m.x5.xm5.msky130_fd_pr__nfet_01v8[gm]
+@m.x5.xm6.msky130_fd_pr__nfet_01v8[gm]
+@m.x5.xm7.msky130_fd_pr__nfet_01v8[gm]
+@v.x1.vmeas
+@v.x1.vmeas1
+@v.x1.vmeas2
+@v.x5.vmeas
+@v.x5.vmeas1
+@v.x5.vmeas2


.control

  * save v(a) v(a_b) v(b) v(b_b) v(ck)
  save all
  *tran 0.1n 1u
  tran 0.2p 10n

  remzerovec
  write tb_TSPC_FF_ratioed.raw
  set appendwrite

.endc




.param mc_mm_switch=0
.param mc_pr_switch=0
.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/my_design/projects/pll/divider/xschem_ngspice/TSPC_FF_ratioed.sym # of pins=5
** sym_path: /foss/designs/my_design/projects/pll/divider/xschem_ngspice/TSPC_FF_ratioed.sym
** sch_path: /foss/designs/my_design/projects/pll/divider/xschem_ngspice/TSPC_FF_ratioed.sch
.subckt TSPC_FF_ratioed VDDA Q D CK GNDA
*.ipin CK
*.ipin D
*.opin Q
*.ipin VDDA
*.ipin GNDA
XM1 Q CK VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas Q net2 0
.save i(vmeas)
XM2 net2 B GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net3 A VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 B CK GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas1 net3 B 0
.save i(vmeas1)
XM5 A D VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 net1 D GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas2 A net4 0
.save i(vmeas2)
XM6 net4 CK net1 GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
